US05332750
A mixture of 2.56 g of 6-butyl-1-p-aminobenzyl-1,2-dihydro-2-oxopyridine, 3 ml of triethylamine, 0.5 g of 4-dimethylaminopyridine and 120 ml of CH2Cl2 is cooled to 5° and a solution of 2.88 g of o-trifluoromethanesulfonamidobenzoyl chloride in 20 ml of CH2Cl2 is added dropwise. The mixture is stirred for a further 16 hours at 20°, evaporated and worked up in conventional manner to give 6-butyl-1-[4-(o-trifluoromethanesulfonamidobenzamido)benzyl]-1,2-dihydro-2-oxopyridine.

reactant | 6-butyl-1-p-aminobenzyl-1,2-dihydro-2-oxopyridine | 2.56 g | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)N)=O | C16H20N2O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | o-trifluoromethanesulfonamidobenzoyl chloride | 2.88 g | FC(S(=O)(=O)NC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H5ClF3NO3S
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | 6-butyl-1-[4-(o-trifluoromethanesulfonamidobenzamido)benzyl]-1,2-dihydro-2-oxopyridine | C(CCC)C1=CC=CC(N1CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F)=O)=O | C24H24F3N3O4S
